US06864255B2
2,4-Dichloro-1,3,5-triazine (405.8 mg, 2.7065 mmol) is dissolved in DMF (2 ml). To the stirring solution cooled to 0° C. is added DIEA (471 μl, 2.7065 mmol). This solution is added dropwise to a 0° C. mix of DMF (2 ml) and 3-[1,2,3]triazol-1-ylmethyl-phenylamine (471.5 mg, 2.7065 mmol). The reaction is stirred at 0° C. for 15 minutes to 40 minutes and then at RT for 20 minutes to 2 hours. The mixture is diluted with EtOAc and water. The layers are separated, and the aqueous layer is extracted twice with EtOAc. The combined organic layer is washed 3 times with brine, dried over Na2SO4, and concentrated under reduced pressure, giving (4-chloro-[1,3,5]triazin-2-yl)-(3-[1,2,3]triazol-1-ylmethyl-phenyl)amine as a white foam.

reactant | 2,4-Dichloro-1,3,5-triazine | 2.7065 mmol, 405.8 mg | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | DIEA | 2.7065 mmol, 471 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[1,2,3]triazol-1-ylmethyl-phenylamine | 2.7065 mmol, 471.5 mg | N1(N=NC=C1)CC=1C=C(C=CC1)N | C9H10N4
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (4-chloro-[1,3,5]triazin-2-yl)-(3-[1,2,3]triazol-1-ylmethyl-phenyl)amine | ClC1=NC(=NC=N1)NC1=CC(=CC=C1)CN1N=NC=C1 | C12H10ClN7
